US07855194B2
Step 1: 4-(4,6-Dimethoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-chloro-4,6-dimethoxy-pyrimidine (3.35 g, 19.19 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (5.0 g, 24.94 mmol, 1.3 equiv; commercially available) in anhydrous DMF (100 mL) was heated to 100° C. for 48 h. The organic phase was concentrated under reduced pressure and the residue extracted with ethyl acetate (3×50 mL) from a solution of 1 M NaOH (100 mL). The combined organic phases were dried over MgSO4 and the product purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 1.97 g (30%) of the title compound. MS (ISP): 339.3 [M+H]+.

reactant | 2-chloro-4,6-dimethoxy-pyrimidine | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(4,6-Dimethoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC(=N1)OC)OC | C16H26N4O4
